US05656644
2-(4-Cyanophenyl)-1-methyl-4-phenyl-5(4-pyridyl)imidazole
4-Cyano-N-[N"-a-dibenzoyl-1,4-dihydropyridyl-methylenyl]-N-methylbenzamide--To a solution of diisopropylamine (2.8 mL, 20 mmol) in THF at -78° C. was added n-butyllithium (6.7 mL of 2.5M solution, 17 mmol). To the resulting mixture was added a solution of 4-cyano-N-methyl-N-(4-picolyl)benzamide (3.5 g, 14 mmol) in THF. The resulting dark purple solution was stirred at -78° C. for 10 min, at which time benzoyl chloride (4.1 mL, 35 mmol) was added. The mixture was warmed to room temperature over 30 min, then poured into aqueous NH4Cl. The mixture was extracted with Et2O, and the organic extract was evaporated under reduced pressure. The residue was triturated with Et2O to provide an orange solid which was washed sparingly with acetone and copiously with Et2O. The title compound was obtained as a bright yellow solid (1.6 g, 25%): 1H NMR (CDCl3): d 7.81-7.09 (m, 16H); 6.49 (m, 2H); 3.32 (s, 3H).

reactant | diisopropylamine | 20 mmol, 2.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 17 mmol, 2.5M, 6.7 mL | C(CCC)[Li]
reactant | 4-cyano-N-methyl-N-(4-picolyl)benzamide | 14 mmol, 3.5 g | C(#N)C1=CC=C(C(=O)N(CC2=CC=NC=C2)C)C=C1 | C15H13N3O
reactant | benzoyl chloride | 35 mmol, 4.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Cyanophenyl)-1-methyl-4-phenyl-5(4-pyridyl)imidazole | C(#N)C1=CC=C(C=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1)C | C22H16N4
